US05734063
To a dispersion of p-iodoaniline (219.0 g, 1 mol) in acetonitrile(1000 ml) was added pyridine (81.0 ml, 1 mol). Isobutyryl chloride (100.5 ml, 1 mol) was added dropwise to the mixture over 1 hour in an ice bath. The mixture was further stirred for one hour following the addition of isobutyryl chloride and to the mixture was added water (3000 ml). Precipitated crystalline solids were collected by filtration to give N-(4-iodophenyl)isobutyramide (281.7 g, Yield: 97%).

reactant | p-iodoaniline | 1 mol, 219.0 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | pyridine | 1 mol, 81.0 ml | N1=CC=CC=C1 | C5H5N
reactant | Isobutyryl chloride | 1 mol, 100.5 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | 3000 ml | O | H2O
solvent | acetonitrile | 1000 ml | C(C)#N | C2H3N
product | N-(4-iodophenyl)isobutyramide | 281.7 g, Yield: 97% | IC1=CC=C(C=C1)NC(C(C)C)=O | C10H12INO
